US04746350
To a solution of sodium metal (2.9 g) in absolute ethanol (170 ml) was added diethylmalonate (20.1 g) and then with warming and stirring of the solution, 1,4-bis(but-1-ene-3-one-1-yl)benzene (12.2 g) was added. The mixture was stirred and refluxed for 1.5 hours and then a solution of potassium hydroxide (16.7 g) in water (150 ml) was added and refluxing was continued for 4 hours. Most of the ethanol was removed by distillation and the cooled aqueous residue was washed with ether to remove any organic impurities. The aqueous layer was then heated again and acidified slowly with dilute hydrochloric acid. The precipitated solid was removed by filtration to give 1,4-bis(cyclohexane-1,3-dione-5-yl)benzene (18 g, 100%) as a pale yellow solid, mp >260° C. (dec).

reactant | sodium | 2.9 g | [Na] | Na
reactant | diethylmalonate | 20.1 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 1,4-bis(but-1-ene-3-one-1-yl)benzene | 12.2 g | C(=CC(C)=O)C1=CC=C(C=C1)C=CC(C)=O | C14H14O2
reactant | potassium hydroxide | 16.7 g | [OH-].[K+]
reactant | ethanol | 170 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 1,4-bis(cyclohexane-1,3-dione-5-yl)benzene | 18 g, 100% | C1(CC(CC(C1)C1=CC=C(C=C1)C1CC(CC(C1)=O)=O)=O)=O | C18H18O4
